US09120804B2
4-[2-(3,5-dimethoxy-phenylamino)-[1,2,4]triazolo[1,5-a]pyrazin-8-yl]-piperazin-2-one (“C43”)
Piperazin-2-one (1.1 eq), 8-chloro-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine (1 eq) are dissolved in DMF and heated to 180° C. in a microwave for 1 h following general procedure 3. The intermediate is reacted with 1-chloro-3,5-dimethoxy-benzene under amination conditions as described in general procedure 3 giving the title compound as a solid.

reactant | Piperazin-2-one | 1.1 eq | N1C(CNCC1)=O | C4H8N2O
reactant | 8-chloro-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine | 1 eq | ClC=1C=2N(C=CN1)N=C(N2)N | C5H4ClN5
reactant | 1-chloro-3,5-dimethoxy-benzene | ClC1=CC(=CC(=C1)OC)OC | C8H9ClO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-[2-(3,5-dimethoxy-phenylamino)-[1,2,4]triazolo[1,5-a]pyrazin-8-yl]-piperazin-2-one | COC=1C=C(C=C(C1)OC)NC1=NN2C(C(=NC=C2)N2CC(NCC2)=O)=N1 | C17H19N7O3
